US03940395
In a similar manner, the above prepared 4-chloro-6-(4-methyl-1-piperazinyl)-2-(4-tolyl)-pyrimidine is reacted with p-ethoxythiophenol to afford 4-(4-ethoxyphenylthio)-6-(4-methyl-1-piperazinyl)-2-(4-tolyl)-pyrimidine.

reactant | 4-chloro-6-(4-methyl-1-piperazinyl)-2-(4-tolyl)-pyrimidine | ClC1=NC(=NC(=C1)N1CCN(CC1)C)C1=CC=C(C=C1)C | C16H19ClN4
reactant | p-ethoxythiophenol | C(C)OC1=CC=C(C=C1)S | C8H10OS
product | 4-(4-ethoxyphenylthio)-6-(4-methyl-1-piperazinyl)-2-(4-tolyl)-pyrimidine | C(C)OC1=CC=C(C=C1)SC1=NC(=NC(=C1)N1CCN(CC1)C)C1=CC=C(C=C1)C | C24H28N4OS
